US05488055
A mixture of 5-amino-1-isopropylpyrazole (6.43 g, 0.051 mol), 2-chloro-5-(diethylaminosulfonyl)benzoic acid (15.0 g, 0.051 mol), K2CO3 (7.04 g, 0.051 mol), Cu(OAc)2 (1.0 g) and DMF (100 mL) was refluxed for 24 hours. The reaction mixture was concentrated in vacuo and the residue was poured into water and neutralized with acetic acid. The mixture was extracted with CH2Cl2 and the CH2Cl2 layer was dried over MgSO4 and evaporated to afford 12.1 g of N-(1-isopropylpyrazol-5-yl)-5-(diethylaminosulfonyl) anthranilic acid.

reactant | 5-amino-1-isopropylpyrazole | 0.051 mol, 6.43 g | NC1=CC=NN1C(C)C | C6H11N3
reactant | 2-chloro-5-(diethylaminosulfonyl)benzoic acid | 0.051 mol, 15.0 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N(CC)CC | C11H14ClNO4S
reactant | K2CO3 | 0.051 mol, 7.04 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Cu(OAc)2 | 1.0 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-(1-isopropylpyrazol-5-yl)-5-(diethylaminosulfonyl) anthranilic acid | 12.1 g | C(C)(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)S(=O)(=O)N(CC)CC | C17H24N4O4S
